Name:  ___      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
persistent abnormal uterine bleeding
 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy, bilateral salpingectomy

 
History of Present Illness:
This is a ___ G4P3 here for discussion of hysterectomy for 
abnormal uterine bleeding as well as sterilization. She last saw 
me on ___ at which time she was unequivocal in her desire 
for permanent sterilization and opted for proceed with LSC 
bilateral salpingectomy. She has a history of abnormal uterine 
bleeding and possible adenomyosis.  

Her history of AUB is below: She was initially seen ___ with 
first episode of AUB. TSH wnl. PUS  was done which revealed an 
indistinct junctional zone concerning for adenomyosis. EMB 
revealed proliferative endometrium and chronic endometritis; she 
was rx and took 10d of doxycycline.

Since last visit she has had 2 periods. She had a period ___ x 
7d and then bled again ___ x 6d. She desires definitive 
management of her AUB. She declines medical management including 
Mirena. She is not interested in ablation.  She is sexually 
active and uses condoms most of the time.

She again affirms today that she is a Jehovah's Witness and 
declines pRBC and platelets. She was given the paperwork to 
clarify exactly which blood products she accepts and declines 
but did not bring it today. She products as above these even in 
the setting of life-threatening bleeding.
 
Past Medical History:
PObHx: G4P3
- SVD x 3, all full term, largest 8#4oz, ages ___

PGynHx:
Menarche age ___  q ___  x  ___ days
Heavy flow x first 2 days then moderate
Denies postcoital bleeding, 1 episode of AUb as above
Last Pap ___ NILM Neg hrHPV
Reports remote history of abnl Pap but did not require colpo, 
rpt
Pap after that time was ___
Reports history of genital herpes, last outbreak many years ago
Denies history of other STIs
Current contraception: condoms
Has used the following contraceptive methods: OCPs
Sexually active with ___ male partner, denies sexual dysfunction,
dyspareunia

PMH:
- genital herpes
- likely adenomyosis

PSH:
- removal of superficial blood vessel from scalp
 
Social History:
Country of Origin:  ___                                     
Marital status:     Married                                     
Children:           Yes: ___ - ages ___ to ___                       
Lives with:         ___ Children                  
Work: ___
Multiple partners:  ___                                      
___ activity:    Present                                     
Sexual orientation: Male                                        
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Contraception:      Condoms - Male                              
Tobacco use:        Never smoker                                
Alcohol use:        Past and Present                            
drinks per week:    <1                                          
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Exercise:           None                                        
Seat belt/vehicle   Always                                      
restraint use:       
 
Family History:
Maternal Aunt, ___ with BREAST CANCER in ___
Uncle, COLON CANCER                              
Aunt, ___ ___ of CERVICAL CANCER                           
Mother, HYPERTENSION                              
Aunt, DIABETES MELLITUS
Denies FH of ovarian, uterine cancer or VTE. 
 
Physical Exam:
Physical Exam on Initial Presentation:
BP: 130/88. Weight: 293.5. BMI: 48.8. LMP: ___.
General: NAD, well appearing
Neuro: alert and oriented x 3
Resp: easy work of breathing
Abdomen: Soft, obese, nontender
Pelvic: Normal external female genitalia. Speculum with smooth 
vaginal walls, parous cervix, no lesions, no bleeding. Mildly 
enlarged uterus with no CMT, no uterine tenderness, no adnexal 
masses.

Physical Exam on Day of Discharge:
General: well appearing
Abdomen: Soft, obese, non tender throughout. Incisions clean, 
dry, intact
GU: Minimal staining on pad
Ext: non tender
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing an uncomplicated total laparoscopic 
hysterectomy and bilateral salpingectomy for abnormal uterine 
bleeding and suspected adenomyosis. Please see the operative 
report for full details.

Immediately post-op, her pain was controlled with oral 
oxycodone, tylenol, and IV Toradol.

On post-operative day 1, her urine output was adequate, so her 
foley was removed, and she voided spontaneously. Her diet was 
advanced without difficulty, and she was transitioned to oral 
oxycodone, tylenol, and ibuprofen.

On post-operative day 1, she experienced bilateral upper 
extremity pain and mild numbness of distal fingers bilaterally, 
with intact sensation and motor function. This pain was thought 
to be due to possible distal nerve compression injury from 
stretch injury secondary to steep trendelenberg during her case. 
She was started on gabapentin for her neuropathic pain. An 
inpatient physical therapy consult was placed, however team was 
informed that her care was more appropriate to be managed 
outpatient with occupational therapy, therefore order for 
outpatient OT was placed and patient was given their phone 
number to schedule an appointment.

Patient also experienced elevated blood pressures while 
inpatient (systolic BPs 150s), although patient did not appear 
to have a history of HTN per history and medical record review. 
Patient was encouraged to follow up outpatient with her primary 
care physician for further management of elevated BPs.

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
EVENING PRIMROSE OIL - Dosage uncertain -  (OTC)
FOLIC ACID - Dosage uncertain -  (Prescribed by Other Provider; 
___)
MULTIVITAMIN,TX-MINERALS [MULTI-VITAMIN HP/MINERALS] - Dosage 
uncertain -  (OTC)

 
Discharge Medications:
1.  Gabapentin 300 mg PO TID 
take two doses on ___, and three doses starting on ___ 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*41 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abnormal uterine bleeding, suspected adenomyosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the gynecology service after your 
procedure. You were started on a medication (Gabapentin) to help 
with your nerve-related shoulder and upper arm pain. You have 
recovered well and the team believes you are ready to be 
discharged home. Please call Dr. ___ office with any 
questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* If TLH: Nothing in the vagina (no tampons, no douching, no 
sex) for 3 months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Since you have steri-strips, leave them on. They will fall off 
on their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___